US06337332B1
Step A: 4-[3-(6,7-dimethoxy-3-styryl-quinoxalin-2-ylamino)-propyl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture 2-chloro-6,7-dimethoxy-3-styryl-quinoxaline (see Kadin, S. B., Ger Offen., DE 2357186; 255 mg, 0.78 mmol), 4-(3-amino-propyl)-piperidine-1-carboxylic acid tert-butyl ester (see Egbertson, M, U.S. Pat. No. 5494921; 392 mg, 1.6 mmol) and potassium carbonate (220 mg, 1.6 mmol) was heated at 120° C. in DMSO (2 mL) for 17 h. After cooling to room temperature, the reaction mixture was diluted with EtOAc and washed with sat'd aq NaHCO3, sat'd aq NaCl, dried and concentrated under vacuum. The crude residue was chromatographed on SiO2-gel to give 150 mg of a yellow oil. API-MS: 533 (M+1). 1H NMR (300 MHz, CDCl3): d 7.75 (d, 1 H), 7.58 (d, 1 H), 7.35 (m), 7.15 (d, 1 H), 4.05 (m), 3.99 (s, 3 H), 3.97 (s, 3 H), 3.54 (bs, 1 H), 2.68 (t, 2 H),1.75 (m), 1.42 (s, 9 H), 1.1 (m).

reactant | 2-chloro-6,7-dimethoxy-3-styryl-quinoxaline | 0.78 mmol, 255 mg | ClC1=NC2=CC(=C(C=C2N=C1C=CC1=CC=CC=C1)OC)OC | C18H15ClN2O2
reactant | 4-(3-amino-propyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
reactant | potassium carbonate | 1.6 mmol, 220 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[3-(6,7-dimethoxy-3-styryl-quinoxalin-2-ylamino)-propyl]-piperidine-1-carboxylic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCNC1=NC2=CC(=C(C=C2N=C1C=CC1=CC=CC=C1)OC)OC | C31H40N4O4
